US07402606B2
A solution of oxalylchloride (0.058 mL, 0.67 mmol) in anhydrous dichloromethane (2 mL) was cooled to −60° C. under nitrogen. Anhydrous dimethylsulfoxide (0.095 mL, 1.34 mmol) was then added dropwise, and the resulting solution was stirred for 10 min. A solution of (3S)-4,4-dimethyl-2-oxotetrahydro-3-furanyl (1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-{[(methylamino)carbonyl]amino}pentylcarbamate (150 mg, 0.30 mmol) in dichloromethane (3 mL) was then added. After 15 min, triethylamine (0.212 mL, 1.52 mmol) was added to the reaction mixture, which was kept cold for 2 min. and then allowed to warm to room temperature. After 40 min, the reaction mixture was subjected directly to column chromatography on silica gel. Elution with 10% acetone in ethyl acetate afforded (3S)-4,4-dimethyl-2-oxotetrahydro-3-furanyl (1S)-5-{[(methylamino)carbonyl]amino}-1-(oxo{[(1R)-1-phenylethyl]amino}acetyl)pentylcarbamate as a colorless gum after drying under vacuum (82 mg, 56%). 1H NMR (300 MHz, DMSO-d6) δ 9.26 (d, J=8 Hz, 1H); 7.99 (d, J=8 Hz, 1H); 7.40-7.33 (m, 4H); 7.31-7.23 (m, 1H); 5.92-5.84 (m, 1H); 5.71-5.63 (m, 1H); 5.40 (s, 1H); 5.08-4.96 (m, 1H); 4.85-4.78 (m, 1H); 4.16 (1/2Abq, J=8 Hz, 1H); 4.06 (1/2Abq, J=8 Hz, 1H); 3.04-2.91 (m, 2H); 2.55 (part of d overlapping DMSO, 3H); 1.74-1.61 (m, 1H); 1.46 (d, J=7 Hz, 1H); 1.45-1.29 (m, 5H); 1.12 (s, 1H); 1.05 (s, 1H). ES-LCMS m/493 (M+H) HRMS C24H34N4O7 m/491.2505 (M+H)cal. 491.2490 (M+H)Obs.

reactant | oxalylchloride | 0.67 mmol, 0.058 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 1.34 mmol, 0.095 mL | CS(=O)C | C2H6OS
reactant | (3S)-4,4-dimethyl-2-oxotetrahydro-3-furanyl (1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-{[(methylamino)carbonyl]amino}pentylcarbamate | 0.30 mmol, 150 mg | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCCNC(=O)NC)NC(O[C@@H]1C(OCC1(C)C)=O)=O | C24H36N4O7
reactant | triethylamine | 1.52 mmol, 0.212 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (3S)-4,4-dimethyl-2-oxotetrahydro-3-furanyl (1S)-5-{[(methylamino)carbonyl]amino}-1-(oxo{[(1R)-1-phenylethyl]amino}acetyl)pentylcarbamate | CNC(=O)NCCCC[C@@H](C(C(N[C@H](C)C1=CC=CC=C1)=O)=O)NC(O[C@@H]1C(OCC1(C)C)=O)=O | C24H34N4O7
